US07569578B2
(±)-tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-(pyridin-3-ylmethyl)-1H-imidazol-2-yl)ethylcarbamate
tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (48 mg, 0.101 mmol), 3-(chloromethyl)pyridine (18.3 mg, 0.11 mmol, 1.05 equiv), and cesium carbonate (99.0 mg, 0.303 mmol) were combined in dimethylformamide (1.5 mL). After stirring at room temperature for 16 h, the solvents were removed and the residue purified by column chromatography to afford 51.0 mg (92%). Mass spec.: 563.3 (MH)+.

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.101 mmol, 48 mg | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | 3-(chloromethyl)pyridine | 0.11 mmol, 18.3 mg, 1.05 equiv | ClCC=1C=NC=CC1 | C6H6ClN
reactant | cesium carbonate | 0.303 mmol, 99.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-(pyridin-3-ylmethyl)-1H-imidazol-2-yl)ethylcarbamate | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CC(C=1N(C=CN1)CC=1C=NC=CC1)NC(OC(C)(C)C)=O | C30H42N6O3Si
